US07951794B2
A solution of 1-(5-ethyl-4-p-tolyl-thiophen-2-yl)-3-(4-hydroxy-3,5-dimethyl-phenyl)-propan-1-one (18 mg, 48 μmol) in ethanol (1.5 mL) and 3 N aq. NaOH (0.3 mL) is treated with (S)-3-chloro-propane-1,2-diol (30 μL) and the mixture is stirred at 60° C. for 14 h. The solvent is removed in vacuo and the residue is separated on prep. TLC plates with heptane:EA 2:1 to give 3-[4-((S)-2,3-dihydroxy-propoxy)-3,5-dimethyl-phenyl]-1-(5-ethyl-4-o-tolyl-thiophen-2-yl)-propan-1-one (4 mg) as a colourless resin; LC-MS: tR=1.04 min, [M+1]+=453.28; 1H NMR (CDCl3): δ 7.45 (s, 1H), 7.92-7.08 (m, 4H), 6.87 (s, 2H), 4.11-4.04 (m, 1H), 3.87-3.80 (m, 4H), 3.16-3.10 (m, 2H), 2.97-2.90 (m, 2H), 2.64 (q, J=7.6 Hz, 2H), 2.24 (s, 3H), 2.17 (s, 6H), 1.20 (t, J=7.6 Hz, 3H).

reactant | 1-(5-ethyl-4-p-tolyl-thiophen-2-yl)-3-(4-hydroxy-3,5-dimethyl-phenyl)-propan-1-one | 48 μmol, 18 mg | C(C)C1=C(C=C(S1)C(CCC1=CC(=C(C(=C1)C)O)C)=O)C1=CC=C(C=C1)C | C24H26O2S
reactant | (S)-3-chloro-propane-1,2-diol | 30 μL | ClC[C@H](CO)O | C3H7ClO2
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
solvent | NaOH | 3 N, 0.3 mL | [OH-].[Na+]
product | 3-[4-((S)-2,3-dihydroxy-propoxy)-3,5-dimethyl-phenyl]-1-(5-ethyl-4-o-tolyl-thiophen-2-yl)-propan-1-one | 4 mg | O[C@H](COC1=C(C=C(C=C1C)CCC(=O)C=1SC(=C(C1)C1=C(C=CC=C1)C)CC)C)CO | C27H32O4S
